US06903215B2
A solution of 810 mg (2.54 mmol) of 2-[3-(tert-butyldimethylsilanyloxy)-4,4,4-trifluorobutyl]pyridine in 8 mL of THF was treated with 2.54 mL (3.81 mmol, 1.5 eq.) of LDA (1.5 M solution in cyclohexane) at −75° C. After stirring at −75° C. for 45 minutes, 474 μL (7,61 mmol, 3.0 eq.) of methyl iodide was added at −75° C. The resulting mixture was stirred at this temperature for 10 minutes and quenched with saturated NH4Cl solution. The product was extracted into ether. The ethereal layer was washed with water, brine, dried over magnesium sulfate, filtered, and concentrated in vacuo to give 750 mg (89%) of 2-[3-(tert-butyldimethylsilanyloxy)-4,4,4-trifluoro-1-methylbutyl]pyridine (a mixture of two diastereomers) as a brown oil.

reactant | 2-[3-(tert-butyldimethylsilanyloxy)-4,4,4-trifluorobutyl]pyridine | 2.54 mmol, 810 mg | [Si](C)(C)(C(C)(C)C)OC(CCC1=NC=CC=C1)C(F)(F)F | C15H24F3NOSi
reactant | LDA | 3.81 mmol, 1.5 M, 2.54 mL, 1.5 eq. | [Li+].CC(C)[N-]C(C)C
reactant | methyl iodide | 7,61 mmol, 474 μL, 3.0 eq. | CI | CH3I
solvent | THF | 8 mL | C1CCOC1 | C4H8O
product | 2-[3-(tert-butyldimethylsilanyloxy)-4,4,4-trifluoro-1-methylbutyl]pyridine | 750 mg, 89% | [Si](C)(C)(C(C)(C)C)OC(CC(C)C1=NC=CC=C1)C(F)(F)F | C16H26F3NOSi
